Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
shellfish derived
 
Attending: ___.
 
Chief Complaint:
L1 compression fracture s/p fall
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ year old female with PMH of osteoporosis who
presented to the ED after a mechanical fall found to have stable
L1 compression fracture with failed ___ evaluation now admitted 
to
medicine for further management.

The patient states that she was working in the garden earlier
today when she slipped on a pack of leaves when trying to move
her ladder and fell onto her back. She felt immediate pain her
back, neck and left hip. She was unable to get herself off the
ground due to the pain and called out to her neighbor for help.
She was subsequently brought to ___ for further management. 

In the ED, initial VS were: 
99.6  80  162/99  20  99% RA   
 
Labs showed:
WBC-12.0   HgB-13.3  ___       AGap=17 
--------------<130
3.8  23  0.8  

___: 10.9  PTT: 27.8  INR: 1.0 
UA: relatively unremarkable 
  
Imaging showed:
MR ___:
1. No evidence of ligamentous injury.
2. Disc bulge and ligamentum flavum thickening cause mild spinal
canal
stenosis at C4-5 and C6-7 without cord compression. No cord
signal
abnormalities.

CT ___:
1. Mild-to-moderate compression deformity of L1 vertebral body
with fracture lucency through the superior endplate and slight
sclerosis suggesting it is acute or subacute. No retropulsion.
2. No evidence of acute visceral injury within the limitation of
a noncontrast enhanced scan. 

CT ___:
1. No acute fracture or traumatic malalignment in the cervical
___.
2. Multilevel degenerative changes as described.

CT Head:
No acute intracranial process

___ was consulted who recommended ___ brace for comfort and
follow-up in clinic for further management. Patient was seen by
___ in the ED and became dizzy with sitting up with positive
orthostatics. It was therefore decided to admit for further
management.
 
Patient received:
-HYDROmorphone (Dilaudid) .5 mg x2
-Oxycodone 5mg x3
-Ondansetron 4 mg 
-1L NS 
 
Transfer VS were: 
98.8   87   155/90  16  98% RA  

On arrival to the floor, patient reports pain in her lumbar 
___
more notable on the left. Denies any numbness, tingling. Able to
move upper and lower extremities, however, movement is limited
secondary to pain. She has been urinating without difficulty and
denies saddle anesthesia. She states that she has not been 
taking
any of her prescribed medications including for her osteoporosis
as they upset her stomach. She only takes Tylenol as needed for
pain control.
 
REVIEW OF SYSTEMS:  
10 point ROS reviewed and negative except as per HPI 
 
Past Medical History:
-Osteoporosis 
-Asthma
-Seasonal allergies
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
=======================
VS: 99.2 PO 176 / 82  70 20 96 RA  
GENERAL: Laying in bed with TLSO brace in place. Mildly
uncomfortable appearing  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, MMM  
NECK: supple, no LAD 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi on anterior lung exam
ABDOMEN: Soft, ND, NTTP, +BS
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, CNII-XII grossly intact. ___ strength in upper and
lower extremities bilaterally however ROM limited ___ pain. Back
examination deferred due to pain with movement.   
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 

DISCHARGE PHYSICAL EXAM
=======================
VS: 99.1 168/91 70 18 97 Ra  
GENERAL: Laying in bed with TLSO brace in place. 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, MMM  
NECK: supple, no LAD 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi on anterior lung exam
ABDOMEN: Soft, ND, NTTP, +BS
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, CNII-XII grossly intact. ___ strength in upper and
lower extremities bilaterally however ROM limited ___ pain. 
Patient was in TLSO brace at the time of discharge. She was able 
to ambulate with the help of ___.
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 
 
Pertinent Results:
ADMISSION LABS
==============
___ 03:06PM BLOOD WBC-12.0*# RBC-4.48 Hgb-13.3 Hct-39.6 
MCV-88 MCH-29.7 MCHC-33.6 RDW-13.5 RDWSD-43.8 Plt ___
___ 03:06PM BLOOD Neuts-87.6* Lymphs-7.3* Monos-3.3* 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-10.49* AbsLymp-0.87* 
AbsMono-0.40 AbsEos-0.04 AbsBaso-0.04
___ 03:06PM BLOOD ___ PTT-27.8 ___
___ 03:06PM BLOOD Glucose-130* UreaN-14 Creat-0.8 Na-140 
K-3.8 Cl-100 HCO3-23 AnGap-17

DISCHARGE LABS
==============
___ 04:50AM BLOOD WBC-5.0# RBC-3.89* Hgb-11.4 Hct-34.7 
MCV-89 MCH-29.3 MCHC-32.9 RDW-13.5 RDWSD-44.2 Plt ___
___ 04:50AM BLOOD Glucose-93 UreaN-13 Creat-0.7 Na-142 
K-3.7 Cl-105 HCO3-26 AnGap-11
___ 04:50AM BLOOD Calcium-9.2 Phos-3.8 Mg-2.1

MICRO
=====

___ 8:00 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.

IMAGING
=======
___ CT Chest/Abd/Pelvis
1. Mild-to-moderate compression deformity of L1 vertebral body 
with  fracture lucency through the superior endplate and slight 
sclerosis suggesting it is  acute or subacute.  No retropulsion. 

2. No evidence of acute visceral injury within the limitation of 
a noncontrast enhanced scan. 

___ CT ___ w/o contrast
1. No acute fracture or traumatic malalignment in the cervical 
___. 
2. Multilevel degenerative changes as described. 

___ CT head w/o contrast
No acute intracranial process.

___ MR cervical ___ w/o contrast
No acute spinal fracture or ligamentous injury.  The cervical 
cord is normal in signal and volume.  No epidural collections. 

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE
=====================
___ year old female with PMH of osteoporosis who presented to the 
ED following a fall from standing height found to have stable L1 
compression fracture with plans for TLSO brace. However, patient 
failed ___ secondary to pain and orthostasis and was subsequently 
admitted to medicine for further management.

#L1 Compression Fracture
#Mechanical Fall
#Back Pain
Patient presented after suffering from mechanical fall from 
standing height found to have L1 compression fracture on CT L 
___. Patient evaluated by ___ who recommended TLSO brace for 
comfort with no indication for surgical intervention. Patient 
admitted for ___ eval/clearance vs. rehab due to orthostasis vs. 
vertigo. Pain was controlled with oxycodone PRN. She was seen by 
___ who recommended continued ___ at home w/ services.

#Orthostasis:
#Vertigo
Patient was orthostatic in the emergency department when working 
with ___. Likely secondary to minimal PO intake and dehydration 
vs. vagal response to pain when moving from laying to seated 
position. The orthostasis improved s/p IVF. Patient was also 
found to have positional vertigo believed to be due to
BPPV. Epley maneuver performed x2 by ___ and improved by the time 
of discharge.

#Osteoporosis:
Patient has known diagnosis of osteoporosis followed by Dr. 
___ at ___. Was supposed to be on Prempro in addition to 
vitamin D and, however she has not been taking it due to GI 
side-effects (nausea). Now with L1 Compression fracture after 
falling from standing height. Will need close follow-up with Dr.
___ further management.

CHRONIC ISSUES:
===============
#Asthma: Not taking home inhalers and currently asymptomatic

TRANSITIONAL ISSUES: 
- New Meds: Oxycodone Q8Hrs for 7 days, Senna, Colace
- Stopped/Held Meds: None
- Changed Meds: None
- Post-Discharge Follow-up Labs Needed: None 

Other issues:
- Patient needs follow-up with ___ as an out-patient for 
further management of her L1 compression fracture 
- Patient needs follow-up with Dr. ___ with endocrinology to 
likely resume
vitamin D supplementation and prempro vs. zoledronic acid
- Follow-up with PCP for ___ discharge follow-up 
- Patient was discharged with a prescription for Oxycodone 5mg 
Q6Hrs for 7 days (28 pills, no refills)
- Patient needs to maintain a bowel regimen while taking 
oxycodone

# CODE: Full code
# CONTACT: ___ ___ 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*14 Capsule Refills:*0 
2.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth Q6Hrs Disp #*28 Capsule 
Refills:*0 
3.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides 8.6 mg 1 tablet by mouth twice a day Disp #*14 
Tablet Refills:*0 
4.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
=================
L1 Compression Fracture   
Back Pain 
Orthostasis
Vertigo

Secondary Diagnosis
===================
Osteoporosis
Asthma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
You are admitted to the hospital after you fell and hurt your 
back.

WHAT HAPPENED IN THE HOSPITAL?
We took images of your ___ and saw that you have a compression 
fracture in your L1 vertebra. You were seen by ___ doctors who 
recommended a ___ brace for your comfort. You were also seen by 
physical therapy who recommended continued physical therapy at 
home to help continue gain strength and lessen pain.

WHAT SHOULD YOU DO AT HOME?
You need to call and schedule an appointment with your PCP 
___ ___ days after discharge. We tried to schedule one, but 
due to insurance reasons we were not able to do that.
You need to go to the follow-up appointment with Endocrine (Dr 
___ on ___ and ___ (Dr ___ on ___.
We discharged you with a prescription for narcotic pain 
medication (3 oxycodone 5mg/day for 7 days). Please use this 
medication if needed, but please do not drive while using it.
Since you will be taking oxycodone, please use a bowel regimen 
at the same time since this medication can cause constipation 
(for example miralax over the counter).
You can also take Tylenol ___ every 8 hours for pain control 
(make sure you do not exceed 4000mg a day)

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team

 
Followup Instructions:
___